US07226951B2
Trifluoro-methanesulfonic acid 5-(cyclopropyl-methyl-amino)-8,8-dimethyl-5,6,7,8-tetrahydro-naphthalen-2-yl ester (Intermediate 54)
A solution of 4,4-dimethyl-6-trifluoromethylsulfonyloxy-1,2,3,4-tetrahydronaphthalene-1-one (U.S. Pat. No. 6,252,090, 0.85 g, 2.64 mmol) in dichloromethane (6 mL) and acetonitrile (3 mL) was treated with cyclopropyl amine (3 mL, 43.4 mmol). After 5 minutes, acetic acid (3 mL) was added followed by sodium cyanoborohydride (0.66 g, 10.55 mmol). The reaction was stirred overnight at ambient temperature. It was then diluted with water and saturated aqueous sodium carbonate solution and extracted with ethyl acetate. The combined organic extract was washed with water and brine, dried over anhydrous sodium sulfate, filtered and evaporated in vacuo to an oil. The oil was dissolved in acetone (20 mL) and treated with potassium carbonate (1.08 g, 7.8 mmol) and methyl iodide (1.6 mL, 26 mmol). The resulting reaction mixture was stirred at ambient temperature overnight. The solids were filtered off, the filtrate was evaporated in vacuo and the residue was subjected to flash column chromatography over silica gel (230–400 mesh) to afford the title compound (0.85 g, 87%) as a colorless oil.

reactant | 4,4-dimethyl-6-trifluoromethylsulfonyloxy-1,2,3,4-tetrahydronaphthalene-1-one | CC1(CCC(C2=CC=C(C=C12)OS(=O)(=O)C(F)(F)F)=O)C | C13H13F3O4S
reactant | cyclopropyl amine | 43.4 mmol, 3 mL | C1(CC1)N | C3H7N
reactant | sodium cyanoborohydride | 10.55 mmol, 0.66 g | C(#N)[BH3-].[Na+]
reactant | potassium carbonate | 7.8 mmol, 1.08 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 26 mmol, 1.6 mL | CI | CH3I
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | Trifluoro-methanesulfonic acid 5-(cyclopropyl-methyl-amino)-8,8-dimethyl-5,6,7,8-tetrahydro-naphthalen-2-yl ester | 0.85 g, 87% | C1(CC1)N(C1C=2C=CC(=CC2C(CC1)(C)C)OS(=O)(=O)C(F)(F)F)C | C17H22F3NO3S
